US07425568B2
2,4-Dinitro-1-(2-phenylchroman-6-yloxy)-benzene was prepared as described for 2-nitro-1-(2-phenylchroman-6-yloxy)-benzene in Example 29(a) except that 6-hydroxyflavane (0.226 g) was used in 5 ml of dry DMSO under nitrogen. Also KI (0.249 g) and KOH (0.112g) and 2,4-dinitrochlorobenzene (0.210 mg) were added in similar manner. Product was purified by column chromatography (CH2Cl2:n-heptane/75:25 as the eluant). 1H-NMR (400 MHz; d6-DMSO): δ 8.88 (d, 1H, J=2.8 Hz), 8.45 (dd, 1H, J=9.4 Hz, J=2.9 Hz), 7.48-7.30 (m, 5H), 7.14 (d, 1H, J=9.3 Hz), 7.10 (d, 1H, J=2.8 Hz), 7.05 (dd, 1H, J=8.8 Hz, J=2.9 Hz), 6.98 (d, 1H, J=8.7 Hz), 5.16 (dd, 1H, J=10.2 Hz, J=2.1 Hz), 3.08-2.93 (m, 1H), 2.83-2.71 (m, 1H), 2.25-2.13 (m, 1H), 2.08-1.94 (m, 1H).

reactant | 2-nitro-1-(2-phenylchroman-6-yloxy)-benzene | [N+](=O)([O-])C1=C(C=CC=C1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C21H17NO4
reactant | 6-hydroxyflavane | 0.226 g | OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C15H14O2
reactant | KOH | 0.112g | [OH-].[K+]
reactant | 2,4-dinitrochlorobenzene | 0.210 mg | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 2,4-Dinitro-1-(2-phenylchroman-6-yloxy)-benzene | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C21H16N2O6
